US06352993B1
Step 3: 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluoro-2-methoxyphenylamino)pyrimidine
A reaction mixture of 4-fluoro-2-methoxy-aniline(0.155 g, 1.10 mmol), 5,6-dimethyl-2-chloro4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.24 lg, 0.84 mmol), triethylamine(0.15 ml, 1.1 mmol) and propyleneglycol (2 ml) was heated to 140° C. for 5 hours, cooled to a room temperature, diluted with dichloromethane(10 ml), and then washed with water. The separated organic layer was concentrated and the residual oil was purified by column chromatography(ethylacetate/N-hexane=1/1) to give 0.247 g of the titled compound. (Yield 75.2%)

reactant | 4-fluoro-2-methoxy-aniline | 1.10 mmol, 0.155 g | FC1=CC(=C(N)C=C1)OC | C7H8FNO
reactant | 5,6-dimethyl-2-chloro4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.84 mmol | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | propyleneglycol | 2 ml | C(C(C)O)O | C3H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluoro-2-methoxyphenylamino)pyrimidine | 0.247 g, Yield 75.2% | CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)OC)N1C(C2=CC=CC=C2CC1)C | C23H25FN4O
